US08895547B2
N-(2,4-Dimethoxybenzyl)-1-(4-benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide
Under inert gas, 3.22 g of C-(4-benzyloxyphenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide were initially charged in 70 ml of THF, and then, at a temperature of −78° C., 12.50 ml of a 1.8 N phenyllithium solution were added dropwise. The reaction mixture was allowed to come to 0° C. and stirred briefly, then cooled again to −78° C., and 4.00 ml of acetone were added dropwise. The mixture was allowed to come to −20° C. within 15 minutes, admixed with 1.29 ml of acetic acid and 100 ml of ethyl acetate, and washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (3.65 g) with a molecular weight of 485.6 g/mol (C26H31NO6S).

reactant | C-(4-benzyloxyphenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 3.22 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C23H25NO5S
reactant | phenyllithium | 1.8 N | C1(=CC=CC=C1)[Li]
reactant | acetone | 4.00 ml | CC(=O)C | C3H6O
reactant | acetic acid | 1.29 ml | C(C)(=O)O | C2H4O2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dimethoxybenzyl)-1-(4-benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 3.65 g | COC1=C(CNS(=O)(=O)C(C(C)(C)O)C2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC(=C1)OC | C26H31NO6S
